US05250548
4-{N-Butyl-N-[(2'-[1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}benzoic acid
The title compound was prepared in analogy to Example 164 starting from 4-aminobenzoic acid instead of 3-aminobenzoic acid. Tosic acid deprotection of ethyl 4-{N-butyl-N-[(2'-[N-triphenylmethyl-1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}benzoate followed by ester hydrolysis afforded, after purification by flash chromatography on silica gel eluting with 95:5:0.25 chloroform/ethanol/acetic acid, the title compound (100 mg, 26%) as a solid. 1H NMR (CD3OD, 300 MHz) δ 1.00 (t, 3H), 1.40 (m, 2H), 1.65 (m, 2H), 3.50 (t, 2HO, 4.65 (s, 2H), 6.70 (m, 2H), 7.10 (m, 2H), 7.20 (m, 2H), 7.55 (m, 2H), 7.65 (m, 2H), 7.80 (m, 2H). MS (DCl/NH3) m/e 428 (M+H)+, 445 (M+H+NH3)+.

reactant | 4-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | Tosic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | ethyl 4-{N-butyl-N-[(2'-[N-triphenylmethyl-1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}benzoate | C(CCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C46H43N5O2
product | 4-{N-Butyl-N-[(2'-[1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}benzoic acid | C(CCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C1=CC=C(C(=O)O)C=C1 | C25H25N5O2
